US05168103
[2-[(2-Amino-3,4-dioxo-1-cyclobuten-1-yl)methylamino]ethyl]phosphonic acid
A suspension of [2-[(2-amino-3,4-dioxo-1-cyclobuten-1-yl)methylamino]ethyl]phosphonic acid diethyl ester (660 mg, 2.3 mmol) in anhydrous 1,2-dichloroethane (20 mL) under nitrogen was treated with bromotrimethylsilane (2.0 mL, 15 mmol) and heated to reflux for 10 minutes. The yellow solution was concentrated and the resulting solid was dissolved in water (75 mL), washed with diethyl ether (2×50 mL) and evaporated. The solid was dissolved in boiling methanol, filtered, and concentrated with the addition of ethyl acetate to a final volume of 75 mL to afford the title compound as a yellow solid (310 mg, 58%, mp 230°-260° C. dec); IR (KBr, cm-1): 3340, 1800; MS (-FAB): 233 (M-H, 32), 148 (100); 1H NMR (DMSO, 400 MHz): δ 7.62 (br s, NH2), 3.68 (br s, 2H), 3.16 (br s, 3 H), 1.90 (d of t, J=18 and 7.5 Hz, 2H).

reactant | [2-[(2-amino-3,4-dioxo-1-cyclobuten-1-yl)methylamino]ethyl]phosphonic acid diethyl ester | 2.3 mmol, 660 mg | C(C)OP(OCC)(=O)CCNCC1=C(C(C1=O)=O)N | C11H19N2O5P
reactant | bromotrimethylsilane | 15 mmol, 2.0 mL | Br[Si](C)(C)C | C3H9BrSi
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | [2-[(2-Amino-3,4-dioxo-1-cyclobuten-1-yl)methylamino]ethyl]phosphonic acid | 310 mg, 58% | NC1=C(C(C1=O)=O)CNCCP(O)(O)=O | C7H11N2O5P
